US07084139B2
6-Chloro-N-{(3S)-1-[(1S)-1-methyl-2-(3-methylpiperidin-1-yl)-2-oxoethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide
To polymer N-cyclohexylcarbodiimide-N′-propyloxymethyl polystyrene (0.038 g) in an Alltech™ tube was added a solution of (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid (0.007 g) in DCM (0.9 ml) followed by 3-methylpiperidine (0.0025 g) in DMF (0.1 ml) and N,N-diisopropylethylamine (0.006 ml). The mixture was shaken at room temperature for 4 days. The tube was drained, the filtrate collected and the resin washed with DCM. The combined DCM solutions were concentrated under reduced pressure and the residue purified by mass directed preparative h.p.l.c. to give the title compound (0.0023 g) as a white solid.

reactant | (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 0.007 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O | C17H17ClN2O5S
reactant | 3-methylpiperidine | 0.0025 g | CC1CNCCC1 | C6H13N
solvent | DCM | 0.9 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | N,N-diisopropylethylamine | 0.006 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 6-Chloro-N-{(3S)-1-[(1S)-1-methyl-2-(3-methylpiperidin-1-yl)-2-oxoethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide | 0.0023 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N1CC(CCC1)C)C)=O | C23H28ClN3O4S
